US05336780
4.85 g (0.05 mol) of 3(5)-amino-5(3)-methyl-pyrazole in 50 ml of absolute dioxan are treated with 8.3 ml (0,06 mol) of triethylamine and then, under stirring at room temperature, are treated dropwise with a solution of 10 g (0.05 mol) of 3-nitro-benzohydroximoyl chloride in 50 ml of absolute dioxan. Stirring is continued for 3 hours and then the mixture is evaporated to dryness. The residue is treated with water and ethyl acetate. The organic phase is dried over magnesium sulphate, evaporated under vacuum and the residue obtained in this way is recrystallised from dioxan. 9.8 g (48%) of 5-amino-1-(3-nitro-benzohydroximoyl)-3-methyl-pyrazole with a m. pt. of 224° to 226° C. are obtained.

reactant | 3(5)-amino-5(3)-methyl-pyrazole | 0.05 mol, 4.85 g | CC1=CC(=NN1)N | C4H7N3
reactant | triethylamine | 0,06 mol, 8.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitro-benzohydroximoyl chloride | 0.05 mol, 10 g | [N+](=O)([O-])C=1C=C(C(=NO)Cl)C=CC1 | C7H5ClN2O3
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | 5-amino-1-(3-nitro-benzohydroximoyl)-3-methyl-pyrazole | 9.8 g, 48% | NC1=CC(=NN1C(C1=CC(=CC=C1)[N+](=O)[O-])=NO)C | C11H11N5O3
